US05668291
2,2'-Dithiobis[N-(2-methylphenyl)benzamide]
This compound was prepared according to the general method of Example 77 using 2,2'-dithiobisbenzoyl chloride (2.00 g, 5.83 mmol) in 50 mL of dichloromethane and o-toluidine (1.25 g, 11.7 mmol) in 10 mL of pyridine. The crude product was triturated with a hot mixture of ethyl acetate and ethanol and recrystallized from acetonitrile-DMF to yield 0.11 g of the title compound, mp 224°-225° C (dec.).

reactant | 2,2'-dithiobisbenzoyl chloride | 5.83 mmol, 2.00 g | C(C1=C(C=CC=C1)SSC1=C(C(=O)Cl)C=CC=C1)(=O)Cl | C14H8Cl2O2S2
reactant | o-toluidine | 11.7 mmol, 1.25 g | NC=1C(=CC=CC1)C | C7H9N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 2,2'-Dithiobis[N-(2-methylphenyl)benzamide] | 0.11 g | CC1=C(C=CC=C1)NC(C1=C(C=CC=C1)SSC1=C(C(=O)NC2=C(C=CC=C2)C)C=CC=C1)=O | C28H24N2O2S2
